US04927838
As in Example 112, (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester (4 g) in methanol (20 mL) was treated with 2N sodium hydroxide solution (5 mL) at reflux for 1 hour and the normal isolation procedure afforded 3.8 g of (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid. Crystallization of a sample from diethyl ether gave the analytical specimen, mp 166°-167° C. Anal. Calcd for C18H20O3 : C, 76.03; H, 7.09 Found: C, 75.89; H, 7.13

reactant | (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester | 4 g | COC(\C=C\C1=C(C2=CC=CC=C2C(=C1)OC)CCCC)=O | C19H22O3
reactant | sodium hydroxide | 2N, 5 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid | 3.8 g | C(CCC)C1=C(C=C(C2=CC=CC=C12)OC)/C=C/C(=O)O | C18H20O3
